US06200999B1
3-(3-Ethoxy-4-methylisoxazol-5-yl)-1H-1,2,4-triazole
To a solution of hydrazine hydrate (0.6 mL, 12.4 mmol) in acetic acid (15 mL) was added N-(dimethylamino)methylidene 3-ethoxy-4-methylisoxazole-5-carboxamide (1.8 g, 8.0 mmol). The reaction mixture was stirred at 90° C. for 15 min and then left at room temperature to crystallize affording pure title compound (1.2 g, 77%): mp 194-196° C. Water was added (40 mL) and the aqueous phase was extracted with EtOAc (3×30 mL). The organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo to give crude title compound (0.3 g, 20%). The two crops were combined.

reactant | hydrazine hydrate | 12.4 mmol, 0.6 mL | O.NN
reactant | N-(dimethylamino)methylidene 3-ethoxy-4-methylisoxazole-5-carboxamide | 8.0 mmol, 1.8 g | CN(C)C=NC(=O)C1=C(C(=NO1)OCC)C | C10H15N3O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 3-(3-Ethoxy-4-methylisoxazol-5-yl)-1H-1,2,4-triazole | 1.2 g, 77% | C(C)OC1=NOC(=C1C)C1=NNC=N1 | C8H10N4O2
